US07834063B2
A. 4-(2-Propen-1-ylamino)-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1A from 4-fluoro-2-(trifluoromethyl)benzonitrile and allylamine: MS (APCI) m/z 249 ([M+Na]+).

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | allylamine | C(C=C)N | C3H7N
product | 4-(2-Propen-1-ylamino)-2-(trifluoromethyl)benzonitrile | C(C=C)NC1=CC(=C(C#N)C=C1)C(F)(F)F | C11H9F3N2
